Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dyspnea on exertion

 
Major Surgical or Invasive Procedure:
___
1. Aortic valve replacement with a size 27 mm ___
    tissue valve.
2. Left atrial appendage ligation.

 
History of Present Illness:
___ year old ___ speaking male with chronic atrial 
fibrillation and known aortic stenosis who presented today for a 
cardiac catheterization at ___. He was found to have normal 
coronary arteries and severe aortic stenosis. He was referred to 
cardiac surgery for evaluation on ___ when AVR was 
recommended. No interval progression of symptoms since ___. 
 
Past Medical History:
Aortic Stenosis
Atrial Fibrillation
Hypertension
TIA

Past Surgical History:
none

 
Social History:
___
Family History:
He has no history of premature CAD or other cardiac diseases 
among first-degree relatives.

 
Physical Exam:
Admission Physical Exam:
Pulse:69 Resp:18  O2 sat:97/RA
B/P  ___
Height:66"     Weight:153 lbs

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR []  Irregular [x]  Murmur [x] 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [X]
Extremities: Warm [x], well-perfused [x]  
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:  palp Left: palp
DP           Right:  palp Left: palp
___           Right:  palp Left: palp
Radial       Right:  palp Left: palp

Carotid Bruit        Right: none   Left: none

Discharge Physical Exam:
Pulse:86 Resp:20  O2 sat:96% on RA
B/P  ___
Height:66"     Weight:72.8kg

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear but with decreased bases bilaterally [x] 
Heart: RRR []  Irregular [x]  Murmur [] 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [X]
Extremities: Warm [x], well-perfused [x]  
Varicosities: None [x]
Neuro: Grossly intact [x]
Sternum: Stable, incision: C/D/I
Edema:  1+ ___ edema 
Pulses:
DP           Right: 2 Left: 2
___           Right: 2 Left: 2
Radial       Right: 2 Left: 2

 
Pertinent Results:
___
Intra-op TEE
PREBYPASS 
No atrial septal defect is seen by 2D or color Doppler. There is 
moderate symmetric left ventricular hypertrophy. The left 
ventricular cavity size is top normal/borderline dilated. There 
is no regionality. There is moderate global left ventricular 
hypokinesis (LVEF = 30 %). Right ventricular chamber size and 
free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic valve is bicuspid. The aortic valve leaflets 
are severely thickened/deformed. Significant aortic stenosis is 
present (not quantified). The mitral valve leaflets are mildly 
thickened. An eccentric, posteriorly directed jet of Mild to 
moderate (___) mitral regurgitation is seen. Due to the 
eccentric nature of the regurgitant jet, its severity may be 
significantly underestimated (Coanda effect).

POSTBYPASS
LV systolic function is improved. LVEF ~50%. RV systolic 
function remains normal. There is a well seated, well 
functioning bioprosthesis in the aortic position. No obvious AI 
is visualized. The MR now appears trace. The study is otherwise 
unchanged from prebypass  

CXR
PA AND LATERAL CHEST, ___   
COMPARISON:  Radiographs of two days earlier.  
FINDINGS:  Subcutaneous emphysema is again demonstrated in the 
right chest 
wall.  There is no visible pneumothorax.  Stable postoperative 
appearance of cardiomediastinal contours, with minimal residual 
pneumopericardium remaining.  Improved aeration in left lower 
lobe with residual minor atelectasis remaining as well as a 
small left effusion.  Small-to-moderate right pleural effusion 
appears similar to the prior study, but adjacent basilar 
atelectasis has slightly improved. 

___ 06:50AM BLOOD WBC-8.2 RBC-3.45* Hgb-11.9* Hct-35.2* 
MCV-102* MCH-34.6* MCHC-33.9 RDW-12.8 Plt ___
___ 06:00AM BLOOD WBC-10.4 RBC-3.23* Hgb-11.3* Hct-32.8* 
MCV-102* MCH-35.1* MCHC-34.5 RDW-12.2 Plt ___
___ 06:50AM BLOOD ___
___ 06:00AM BLOOD ___
___ 06:03AM BLOOD ___
___ 06:00AM BLOOD ___
___ 06:50AM BLOOD UreaN-23* Creat-1.1 Na-138 K-4.2 Cl-97
___ 06:00AM BLOOD Glucose-58* UreaN-30* Creat-1.1 Na-135 
K-4.3 Cl-96 HCO3-30 AnGap-13
___ 06:03AM BLOOD Glucose-99 UreaN-29* Creat-1.1 Na-133 
K-4.5 Cl-95* HCO3-29 AnGap-14
___ 06:50AM BLOOD Mg-2.2
 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent AVR, ___ ligation with Dr. ___.  
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  Coumadin 
was started for anti-coagulation for chronic atrial 
fibrillation.  Pradaxa should be held for at least one month 
following cardiac surgery.  The patient was transferred to the 
telemetry floor for further recovery.  He remained in atrial 
fibrillation with BBB, with asymtomatic, self-limiting rapid 
bursts.  Chest tubes and pacing wires were discontinued without 
complication.  The patient was evaluated by the physical therapy 
service for assistance with strength and mobility.  His 
discharge was held for one day because he had hypoglycemia to 58 
(only symptom diaphoresis) while on lantus 10units daily, but 
had no further problems once insulin was stopped.  By the time 
of discharge on POD 5, the patient was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics.  
The patient was discharged to home with Art of Care ___ service 
in good condition with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dabigatran Etexilate 300 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Ibuprofen 400 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
2. Aspirin EC 81 mg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
This takes the place of lisinopril/HCTZ ___ daily 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily ___ #*30 Tablet 
Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day ___ #*60 Capsule Refills:*0
5. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
___ #*60 Tablet Refills:*0
6. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days   
RX *potassium chloride [Klor-Con 10] 10 mEq 2 tablets by mouth 
daily ___ #*14 Packet Refills:*0
___  MD to order daily dose PO DAILY 
8. Warfarin 2 mg PO ONCE Duration: 1 Dose 
___ dose, then as directed by MD for INR goal ___ 
RX *warfarin [Coumadin] 2 mg 1 tablet(s) by mouth as directed by 
MD ___ #*30 Tablet Refills:*1
9. Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily ___ #*7 Tablet 
Refills:*0
10. Ibuprofen 400 mg PO Q8H:PRN pain 
11. Senna 2 TAB PO DAILY 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth once a day ___ 
#*60 Tablet Refills:*0
12. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
six (6) hours ___ #*45 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PMH:
- Aortic Stenosis
- Atrial Fibrillation
- Hypertension
- TIA
Past Surgical History:
none

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema - 1+

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___